US07279578B2
Cyclopropyl-(3,4-dimethoxy-benzyl)-amine
prepared by reaction of cyclopropylamine with 3,4-dimethoxy-benzaldehyde LC-MS: rt=0.67 min, 208 (M+1, ES+).

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 3,4-dimethoxy-benzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
product | Cyclopropyl-(3,4-dimethoxy-benzyl)-amine | C1(CC1)NCC1=CC(=C(C=C1)OC)OC | C12H17NO2
